US06515011B2
TFA (1 mL) was added to a stirred solution of N-{5-chloro-2-[(3,3-difluoroazetidin-1-yl)methyl]benzyl}-1-(tert-butoxycarbonyl)-L-prolinamide (64.2 mg, 0.14 mmol) in CH2Cl2 (2 ml) at 0° C. After 3 h, another 0.3 mL TFA was added. After 30 additional min the reaction mixture was concentrated and the residue was partitioned between CH2Cl2 and 10% NaHCO3. The CH2Cl2 layer was washed with water and brine, dried (Na2SO4) and evaporated to give N-{5-chloro-2-[(3,3-difluoroazetidin-1-yl)methyl]benzyl}-L-prolinamide (45.0 mg) as a glass: 1H NMR (CDCl3, 400 MHz) δ 1.70 (m, 2H), 1.90 (m, 2H), 2.16 (m, 1H), 2.85-3.04 (m, 2H), 3.58 (t, J=12.1 Hz, 4H), 3.73 (m, 3H), 4.37-4.52 (m, 2H), 7.19 (m, 2H), 7.32 (d, J=2.19 Hz, 1H), 8.45 (br s, 1H).

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-{5-chloro-2-[(3,3-difluoroazetidin-1-yl)methyl]benzyl}-1-(tert-butoxycarbonyl)-L-prolinamide | 0.14 mmol, 64.2 mg | ClC=1C=CC(=C(CNC([C@H]2N(CCC2)C(=O)OC(C)(C)C)=O)C1)CN1CC(C1)(F)F | C21H28ClF2N3O3
reactant | TFA | 0.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | N-{5-chloro-2-[(3,3-difluoroazetidin-1-yl)methyl]benzyl}-L-prolinamide | 45.0 mg | ClC=1C=CC(=C(CNC([C@H]2NCCC2)=O)C1)CN1CC(C1)(F)F | C16H20ClF2N3O
